US05438052
2-Bromomethyl-5-methyl[1.2.4]triazolo[1,5-a]pyrimidin-7-ol (3.6 g) are dissolved in 50 ml of dimethylformamide, treated with 0.99 g of sodium azide and stirred at room temperature for 2.5 hours. The dimethylformamide is evaporated in a high vacuum at 40° C. and the residue is treated with 35 ml of water. The thus-obtained suspension is stirred in an ice bath for 45 minutes. A white precipitate is filtered off under suction, washed with a small amount of water and dried in a high vacuum. There are obtained 2.0 g of 2-azidomethyl-5-methyl[1.2.4]-triazolo[1,5-a]pyrimidin-7-ol as white crystals of melting point 193°-194° C.

reactant | 2-Bromomethyl-5-methyl[1.2.4]triazolo[1,5-a]pyrimidin-7-ol | 3.6 g | BrCC1=NN2C(N=C(C=C2O)C)=N1 | C7H7BrN4O
reactant | sodium azide | 0.99 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-azidomethyl-5-methyl[1.2.4]-triazolo[1,5-a]pyrimidin-7-ol | 2.0 g | N(=[N+]=[N-])CC1=NN2C(N=C(C=C2O)C)=N1 | C7H7N7O
